US05498630
5-Bromo-N-ethyl-3-thiophenecarboxamide was prepared from 5-bromo-3-thiophenecarboxylic acid (2.1 g, 10 mmol) and 70% ethylamine in water according to the methods of steps a and b of Example 248 in 70% yield.

reactant | 5-bromo-3-thiophenecarboxylic acid | 10 mmol, 2.1 g | BrC1=CC(=CS1)C(=O)O | C5H3BrO2S
reactant | ethylamine | C(C)N | C2H7N
solvent | water | O | H2O
product | 5-Bromo-N-ethyl-3-thiophenecarboxamide | 70% yield | BrC1=CC(=CS1)C(=O)NCC | C7H8BrNOS
